US08703784B2
tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate was treated with anhydrous TFA (10 mL) at rt and the mixture was stirred for 16 h. Then the solvent was evaporated off under reduced pressure and the material was lyophilized from acetonitrile:water (3:1) to give compound 5-(3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one as yellow solid (122 mg) which was used without further purification. HPLC-MS tR=1.16 min (UV254 nm). Mass calculated for formula C26H26N6O2 454.2; observed MH+ (LCMS) 455.2 (m/z).

reactant | tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]nonane-9-carboxylate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CC1COCC(C2)N1C(=O)OC(C)(C)C)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C45H66N6O6Si2
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3-oxa-9-azabicyclo[3.3.1]nonan-7-yl)-3-(6-phenylpyridin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | 122 mg | C12COCC(CC(C1)C1=NC=3N(C4=C1C(CCN4)=O)N=CC3C=3C=NC(=CC3)C3=CC=CC=C3)N2 | C27H26N6O2
